US09079866B2
N-(3-Bromopyridin-2-yl)pivalamide
3-Bromopyridin-2-amine (500 mg, 2.89 mmol) and pivaloyl chloride (420 mg, 3.48 mmol) were added to a 50 mL round-bottomed flask. Pyridine (10 mL) was then added and the mixture stirred and heated at 80° C. for 4 h. The reaction was then cooled to rt and stirred overnight. The reaction mixture was then concentrated to dryness and the resultant residue subjected to FCC to provide the title compound. MS (ESI): mass calcd. for C10H13BrN2O, 256.02; m/z found, 257.1 [M+H]+.

reactant | 3-Bromopyridin-2-amine | 2.89 mmol, 500 mg | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | pivaloyl chloride | 3.48 mmol, 420 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | Pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-Bromopyridin-2-yl)pivalamide | BrC=1C(=NC=CC1)NC(C(C)(C)C)=O | C10H13BrN2O
